US05728686
Diethyl [4-(1-(3-methylbutyl)-3-methylxanthin-7-yl)butyl]phosphonate
The title substance was prepared from diethyl [4-(3-methylxanthin-7-yl)-butyl]phosphonate and 2-methylbutyl chloride analogously to Example 1 and chromatographed on silica gel (eluent: dichloromethane/methanol 10:1)

reactant | diethyl [4-(3-methylxanthin-7-yl)-butyl]phosphonate | CN1C(NC(C=2N(C=NC12)CCCCP(OCC)(OCC)=O)=O)=O | C14H23N4O5P
reactant | 2-methylbutyl chloride | CC(CCl)CC | C5H11Cl
product | Diethyl [4-(1-(3-methylbutyl)-3-methylxanthin-7-yl)butyl]phosphonate | CC(CCN1C(=O)N(C=2N=CN(C2C1=O)CCCCP(OCC)(OCC)=O)C)C | C19H33N4O5P
